US05696151
A reaction mixture of N-[4-chloro-3-(3-methyl-2-butenyloxy)phenyl]-2-methyl-3-furancarboxamide (4 g), sodium bicarbonate (7.4 g) and Lawesson's reagent (3.6 g) in toluene (168 mL) was gradually heated to 85° C. over 1 1/2 hours and then held at this temperature for a further 2 1/2 hours. The reaction mixture was then cooled and filtered through a plug of neutral aluminum oxide and eluted with ether:petroleum ether (1:1). Evaporation of the solvent gave the product, N-[4-chloro-3-(3-methyl-2-butenyloxy)phenyl]-2-methyl-3-furancarbothioamide, 2.6 g.

reactant | N-[4-chloro-3-(3-methyl-2-butenyloxy)phenyl]-2-methyl-3-furancarboxamide | 4 g | ClC1=C(C=C(C=C1)NC(=O)C1=C(OC=C1)C)OCC=C(C)C | C17H18ClNO3
reactant | sodium bicarbonate | 7.4 g | C([O-])(O)=O.[Na+]
reactant | Lawesson's reagent | 3.6 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 168 mL | C1(=CC=CC=C1)C | C7H8
product | N-[4-chloro-3-(3-methyl-2-butenyloxy)phenyl]-2-methyl-3-furancarbothioamide | ClC1=C(C=C(C=C1)NC(=S)C1=C(OC=C1)C)OCC=C(C)C | C17H18ClNO2S
